US07361663B2
A flask is charged with 2-[1-(Biphenyl-4-carbonyl)-pyrrolidin-2-yl]-pent-4-ynoic acid methyl ester (0.58 g, 1.62 mmol), (3-iodopyridin-4-yl)-carbamic acid tert-butyl ester (0.52 g, 1.62 mmol), bis(triphenylphosphine)-palladium(II) chloride (0.057 g, 0.081 mmol), copper iodide (0.0104 g, 0.055 mmol), triethylamine (0.90 mL, 6.5 mmol) and DMF (7.3 mL) and heated at 90° C. for 2 h. The reaction is cooled to RT and partitioned between EtOAc (200 mL) and saturated sodium bicarbonate (75 mL). The organic layer is washed with saturated sodium bicarbonate (2×75 mL), brine (50 mL), dried over MgSO4 and concentrated. The residue is subjected to flash chromatography (1:1/EtOAc:hexanes) to give 2-[1-(biphenyl-4-carbonyl)-pyrrolidin-2-yl]-5-(4-tert-butoxycarbonylamino-pyridin-3-yl)-pent-4-ynoic acid methyl ester as an impure mixture (0.35 g, three components) which is used without further purification. This material (0.35 g, 0.63 mmol estimated), DBU (0.19 g, 1.26 mmol) and acetonitrile (7 mL) is stirred at 50° C. for 6 h. The reaction mixture is concentrated and purified by flash chromatography (0.5% MeOH/CH2Cl2) to (2.0% MeOH/CH2Cl2) to give the title compound (0.18 g, 0.325 mmol). 1H NMR (CDCl3, 300 MHz) 8.83(s, 1H), 8.41(m, 1H), 8.25(d, 1H), 7.65-7.53(m, 6H), 7.52-7.32(m, 3H), 6.80(s, 1H), 4.84-4.68(m, 1H), 3.73, 3.68(two s, 3H), 3.67-3.35(m, 6H), 2.21-1.91(m, 4H), 1.67(s, 9H).

reactant | 2-[1-(Biphenyl-4-carbonyl)-pyrrolidin-2-yl]-pent-4-ynoic acid methyl ester | 1.62 mmol, 0.58 g | COC(C(CC#C)C1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C23H23NO3
reactant | (3-iodopyridin-4-yl)-carbamic acid tert-butyl ester | 1.62 mmol, 0.52 g | C(C)(C)(C)OC(NC1=C(C=NC=C1)I)=O | C10H13IN2O2
reactant | triethylamine | 6.5 mmol, 0.90 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.081 mmol, 0.057 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.055 mmol, 0.0104 g | [Cu](I)I
solvent | DMF | 7.3 mL | CN(C)C=O | C3H7NO
product | 2-[1-(biphenyl-4-carbonyl)-pyrrolidin-2-yl]-5-(4-tert-butoxycarbonylamino-pyridin-3-yl)-pent-4-ynoic acid methyl ester | COC(C(CC#CC=1C=NC=CC1NC(=O)OC(C)(C)C)C1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C33H35N3O5
